US07435735B2
Step 2: Methyl N-(tert-butoxycarbonyl)-N-(4-fluorobenzyl)glycinate
To a solution of methyl N-(4-fluorobenzyl)glycinate (46.0 g, 233.3 mmol) in CH2Cl2 (350 mL) were added 4-dimethylaminopyridine (2.85 g, 23.33 mmol) and triethylamine (42.3 mL, 303.2 mmol). The solution was then treated with 1 M di-tert-butyl dicarbonate in THF (279.9 mL, 279.9 mmol), and the reaction was stirred at ambient temperature in a closed atmosphere for 18 h. The solvent was removed in vacuo, and the resulting residue was purified by silica gel chromatography using gradient elution (10% EtOAc/hexanes to 50% EtOc/hexanes) to afford the product as a light yellow oil.

reactant | methyl N-(4-fluorobenzyl)glycinate | 233.3 mmol, 46.0 g | FC1=CC=C(CNCC(=O)OC)C=C1 | C10H12FNO2
reactant | triethylamine | 303.2 mmol, 42.3 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1 M | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF | 279.9 mmol, 279.9 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 350 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 23.33 mmol, 2.85 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl N-(tert-butoxycarbonyl)-N-(4-fluorobenzyl)glycinate | C(C)(C)(C)OC(=O)N(CC(=O)OC)CC1=CC=C(C=C1)F | C15H20FNO4
